US07671043B2
13D. 3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde
Florosil (400 mg) and pyridinium chlorochromate (195 mg, 0.903 mmol) were added to a solution of {3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol (139 mg, 0.451 mmol) and methylene chloride (2.5 mL) and stirred at ambient temperature for 3 hours. The reaction mixture was filtered through a pad of silica gel. The pad was rinsed with methylene chloride (2×) and 1:1 ethyl acetate:hexanes (2×). The filtrate was concentrated in vacuo to give the desired compound as a crude residue.

reactant | pyridinium chlorochromate | 0.903 mmol, 195 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | {3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol | 0.451 mmol, 139 mg | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(C=CC1)CO | C19H20N2O2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(C=O)C=CC1 | C19H18N2O2
